US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(cyanomethyl)thiazole-4-carboxamide
2-(Cyanomethyl)thiazole-4-carboxylic acid (280 mg, 0.10 mmol) was coupled with (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile using the method of Example 34(d). Crude product was purified twice by CombiFlash (1st column: silica, eluent: 0-100% EtOAc in heptane; 2nd column: C-18 silica, eluent: 0-100% MeCN in water) to obtain 4.9 mg (1%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.26 (d, 3H), 4.13 (s, 2H), 4.31 (dd, 1H), 4.43 (dd, 1H), 4.55-4.67 (m, 1H), 6.63 (d, 1H), 7.49 (d, 1H), 7.70 (d, 1H), 7.79 (dd, 1H), 7.84 (d, 1H), 7.97 (d, 1H), 8.12 (d, 1H).

reactant | 2-(Cyanomethyl)thiazole-4-carboxylic acid | 0.10 mmol, 280 mg | C(#N)CC=1SC=C(N1)C(=O)O | C6H4N2O2S
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(cyanomethyl)thiazole-4-carboxamide | 4.9 mg, 1% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)CC#N | C19H15ClN6OS
